US08957070B2
N-{2-[5-(Chloromethyl)-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-(2-ethoxyethyl)thiophene-2-sulfonamide
To a mixture of N-(2-ethoxyethyl)-N-{2-[5-(hydroxymethyl)-1,3-thiazol-2-yl]-1H-indol-7-yl}thiophene-2-sulfonamide (1.00 g), N,N-dimethylformamide (1 drop) and tetrahydrofuran (15 mL) was added thionyl chloride (409 mg), and the mixture was stirred at room temperature overnight. The reaction mixture was diluted with ethyl acetate and saturated brine, and washed with saturated brine. The organic layer was dried over magnesium sulfate and filtrated. The filtrate was concentrated, and the obtained solid was washed with ether-hexane (1:1) to give the title compound (970 mg, yield 93%) as a pale-yellow solid.

reactant | N-(2-ethoxyethyl)-N-{2-[5-(hydroxymethyl)-1,3-thiazol-2-yl]-1H-indol-7-yl}thiophene-2-sulfonamide | 1.00 g | C(C)OCCN(S(=O)(=O)C=1SC=CC1)C=1C=CC=C2C=C(NC12)C=1SC(=CN1)CO | C20H21N3O4S3
reactant | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
reactant | thionyl chloride | 409 mg | S(=O)(Cl)Cl | Cl2OS
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | brine | [Cl-].[Na+].O
product | N-{2-[5-(Chloromethyl)-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-(2-ethoxyethyl)thiophene-2-sulfonamide | 970 mg, yield 93% | ClCC1=CN=C(S1)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)CCOCC | C20H20ClN3O3S3
